US07812022B2
The title compound was prepared from N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo-[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide and 3-chloro-4-{[2-(dimethylamino)ethyl]oxy}aniline in a manner analogous to Example 125. 1H NMR (400 MHz, DMSO-d6): δ 10.93 (s, 1H), 9.53 (s, 1H), 8.84 (d, 1H), 8.44 (d, 1H), 8.26 (d, 1H), 8.01 (s, 1H), 7.93 (s, 1H), 7.81 (d, 1H), 7.58 (m, 1H), 7.53-7.44 (m, 3H), 7.34 (d, 1H), 7.24 (m, 2H), 7.12 (m, 1H), 7.05 (d, 1H), 4.08 (m, 2H), 2.66 (m, 2H), 2.25 (s, 6H); HRMS: calc. C34H29N7O2F2Cl (M+H)+ 640.2039 found 640.2047.

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo-[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C24H14ClF2N5O
reactant | 3-chloro-4-{[2-(dimethylamino)ethyl]oxy}aniline | ClC=1C=C(N)C=CC1OCCN(C)C | C10H15ClN2O
product | N-[3-(3-{2-[(3-Chloro-4-{[2-(dimethylamino)ethyl]oxy}phenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2,6-difluorobenzamide | ClC=1C=C(C=CC1OCCN(C)C)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C34H28ClF2N7O2
